US05965741
To a stirred suspension of pentyl triphenylphosphonium bromide (10.4 g, 25.2 mM) in freshly distilled THF (40 ml) was added LiN(SiMe3)2 (1M in THF, 50 ml). The reaction was stirred at ambient temperature for 1 hour. Salicylaldehyde (2.8 g, 22.9 mM) was added to the reaction mixture which was stirred at ambient temperature for 60 hours. The reaction was then treated with water, the pH adjusted with 1N aqueous HCl to pH7 and extracted twice with ethyl acetate. The organic layers were combined, dried over (MgSO4) and evaporated. The residue was purified by chromatography to give 2-(1-hexenyl)phenol, (3.57 g, 88%).

reactant | pentyl triphenylphosphonium bromide | 25.2 mM, 10.4 g | [Br-].C(CCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | LiN(SiMe3)2 | 1M, 50 ml | [Li]N([Si](C)(C)C)[Si](C)(C)C
reactant | Salicylaldehyde | 22.9 mM, 2.8 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | HCl | 1N | Cl | ClH
solvent | water | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-(1-hexenyl)phenol | 3.57 g, 88% | C(=CCCCC)C1=C(C=CC=C1)O | C12H16O
